US07071201B2
345-2) 1-Ethyl -4-aminomethylpiperdine
Lithium aluminum hydride (1.06 g) was suspended in tetrahydrofuran (70 ml) and the resultant suspension was stirred under nitrogen atmosphere under ice cooling. Next, 1-acetyl-4-aminomethylpiperidine (4.14 g). dissolved in tetrahydrofuran (30 ml) was added thereto and the resultant mixture was stirred at room temperature for 10 min and heated under reflux overnight. Then the reaction mixtures were ice-cooled and water (1.06 ml), a 5 N aqueous solution of sodium hydroxide (1.06 ml) and further water (3.18 ml) were successively added thereto. After stirring, the mixture was diluted with ethyl acetate and the insolubles were filtered off. The residue was purified by NH-silica gel column chromatography (chloroform/methanol system) to give the title compound (3.15 g) as a pale brown oil.

reactant | Lithium aluminum hydride | 1.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-acetyl-4-aminomethylpiperidine | 4.14 g | C(C)(=O)N1CCC(CC1)CN | C8H16N2O
reactant | water | 1.06 ml | O | H2O
reactant | sodium hydroxide | 1.06 ml | [OH-].[Na+]
reactant | water | 3.18 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Ethyl -4-aminomethylpiperdine | 3.15 g | C(C)N1CCC(CC1)CN | C8H18N2
